US07632857B2
([2,6-Difluoro-4-(5-methoxy-pyridin-3-yl)-phenyl]-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure WW starting from 3-methoxypyridine-5-boronic acid and (4-bromo-2,6-difluoro-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone to give 20 mg (19%). MS (ES+) 402 m/z

reactant | 3-methoxypyridine-5-boronic acid | COC=1C=NC=C(C1)B(O)O | C6H8BNO3
reactant | (4-bromo-2,6-difluoro-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C(=C1)F)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H19BrF2N2O
product | [2,6-Difluoro-4-(5-methoxy-pyridin-3-yl)-phenyl]-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C(=CC(=C1)C=1C=NC=C(C1)OC)F)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C22H25F2N3O2
